US07777047B2
2-[5-(dimethoxymethyl)-4,5-dihydro-1,3-thiazol-2-yl]-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-5-yl pivalate
To a solution of 7-amino-2-[5-(dimethoxymethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-5-yl pivalate (2.55 g) in pyridine (50 mL) was added dropwise a pyridine solution (10 mL) of pyridine-2-sulfonyl chloride (1.27 g) under ice-cooling, and the mixture was stirred at room temperature for 30 min. The reaction solution was diluted with ethyl acetate and diethyl ether, washed with water and saturated brine, dried (MgSO4), and concentrated. The residue was dissolved in N,N-dimethylformamide (50 mL), and potassium carbonate (1.1 g) and methyl iodide (0.45 mL) were added under ice-cooling. The mixture was stirred at room temperature for 30 min, diluted with ethyl acetate, washed with water and saturated brine, dried (MgSO4), and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane:ethyl acetate=95:5-4:6) to give the title compound (3.1 g, yield 87%) as a pale-yellow amorphous powder.

reactant | 7-amino-2-[5-(dimethoxymethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-5-yl pivalate | 2.55 g | C(C(C)(C)C)(=O)OC=1C=C2C=C(NC2=C(C1)N)C=1SC(CN1)C(OC)OC | C19H25N3O4S
reactant | pyridine-2-sulfonyl chloride | 1.27 g | N1=C(C=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
reactant | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
reactant | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-[5-(dimethoxymethyl)-4,5-dihydro-1,3-thiazol-2-yl]-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indol-5-yl pivalate | 3.1 g, yield 87% | C(C(C)(C)C)(=O)OC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C1=NC=CC=C1)C)C=1SC(CN1)C(OC)OC | C25H30N4O6S2
